US07846915B2
The trans-stilbene (1.17 g, 4.85 mmol) was dissolved in dry NMP (12 mL). Thiophenol (1.07 g, 9.7 mmol) was then added to the above solution, followed by addition of K2CO3 (67 mg, 0.48 mmol). The resulting mixture was heated for 8 hours at 195° C. under nitrogen. The cooled reaction mixture was made alkaline with 1 N NaOH (pH=10), and the neutral components were extracted with ether (3×50 mL). The aqueous layer was acidified to pH=4 with 1 N HCl and stirred at room temperature for 30 minutes, and extracted with ether (2×50 mL). Then pH was adjusted to pH=8 with saturated NaHCO3. The solid was isolated by filtration, washed with water (100 mL), ethyl acetate (50 mL) and ether (30 mL), and air-dried to yield 5-[(E)-2-(4-hydroxyphenyl)-vinyl]-pyridin-2-ol (715 mg, 69%). MS (ES) m/z: 214.08 (M+1); 13C-NMR (DMSO-d6): δ 162.42, 157.50, 138.21, 134.07, 129.04, 127.92, 125.67, 121.59, 121.03, 116.89, and 116.18.

reactant | trans-stilbene | 4.85 mmol, 1.17 g | C1(=CC=CC=C1)\C=C\C1=CC=CC=C1 | C14H12
reactant | Thiophenol | 9.7 mmol, 1.07 g | C1(=CC=CC=C1)S | C6H6S
reactant | K2CO3 | 0.48 mmol, 67 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 1 N, pH=10 | [OH-].[Na+]
reactant | NMP | 12 mL | CN1CCCC1=O | C5H9NO
product | 5-[(E)-2-(4-hydroxyphenyl)-vinyl]-pyridin-2-ol | 715 mg, 69% | OC1=CC=C(C=C1)/C=C/C=1C=CC(=NC1)O | C13H11NO2
